US04051248
B. 1-Phenyl-8-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]-decan-4-one
2-[(Diethylamino)methyl]-3,4-dihydro-1 (2H)-naphthalenone, hydrochloride (6.93 g) and 1-phenyl-1,3,8-triazaspiro-[4.5]decan-4-one (6.0 g.) are dissolved in 75 ml of methanol by brief heating, followed by stirring at room temperature for 16 hours. The resulting precipitate is filtered, washed with ethanol and dried at 80° C under vacuum to yield 8.58 g of the title compound, melting point 170°-173° C.

reactant | 2-[(Diethylamino)methyl]-3,4-dihydro-1 (2H)-naphthalenone, hydrochloride | 6.93 g | Cl.C(C)N(CC)CC1C(C2=CC=CC=C2CC1)=O
reactant | 1-phenyl-1,3,8-triazaspiro-[4.5]decan-4-one | 6.0 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
solvent | methanol | 75 ml | CO | CH4O
product | 1-Phenyl-8-[(1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]-decan-4-one | 8.58 g | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC=CC=C1CC2)=O)=O | C24H27N3O2
